US07829560B2
N-tertbutyloxycarbonyl-4-amino-1-naphthol (1.0 g, 3.86 mmol), potassium carbonate (1.06 g, 7.7 mmol) and bromoacetonitrile (0.4 ml, 5.8 mmol) in anhydrous dimethylformamide (10 ml) are stirred at room temperature for 5 hours. The mixture is poured into ethyl acetate (100 ml) and washed with water (2×100 ml). The organic layer is then dried over anhydrous sodium sulfate and evaporated to dryness to give (4-cyanomethoxynaphthalen-1-yl)-carbamic acid tert-butyl ester as a red brown solid (1.132 g). 1H NMR 300 MHz (CDCl3) 8.2 (d, 1H, J=11.5 Hz), 7.85 (d, 1H, J=111.5 Hz), 7.55-7.75 (m, 3H), 6.9 (d, 1H, J=14 Hz), 6.62 (s, 1H), 4.95 (s, 2H), 1.5 (s, 9H).

reactant | N-tertbutyloxycarbonyl-4-amino-1-naphthol | 3.86 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1=CC=C(C2=CC=CC=C12)O | C15H17NO3
reactant | potassium carbonate | 7.7 mmol, 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 5.8 mmol, 0.4 ml | BrCC#N | C2H2BrN
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (4-cyanomethoxynaphthalen-1-yl)-carbamic acid tert-butyl ester | 1.132 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OCC#N)=O | C17H18N2O3
